US07615609B2
b) H-D-Trp-Lys(BOC)-OMe
19.8 (34.1 mmol) g Z-D-Trp-Lys(BOC)-OMe are dissolved in 220 ml methanol, 2.2 g catalyst PdC 10% added and hydrogenated at RT. The hydrogenation is finished after 1 hour at RT, the catalyst filtered off and the filtrate evaporated at 30°: white solid. HPLC: 98.1% b.a. (16.2 min).

reactant | Z-D-Trp-Lys(BOC)-OMe | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H40N4O7
solvent | methanol | 220 ml | CO | CH4O
product | H-D-Trp-Lys(BOC)-OMe | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C23H34N4O5
